US08492414B2
5-(2-(Benzyloxy)-4-chlorophenyl)-1,3,4-oxathiazol-2-one (VI)
To a solution of 2-(benzyloxy)-4-chlorobenzamide (0.103 g, 0.38 mmol) in toluene (5 ml) was added chlorocarbonylsulfenyl chloride (63 μL, 0.76 mmol) under nitrogen atmosphere and the resulting reaction mixture was refluxed at 90° C. for 2 h. After the completion of the reaction (TLC monitoring) water was added followed by extraction with ether (3×25 ml). The combined organics was then sequentially washed with water, 10% NaHCO3 (aqueous solution) and finally again with water. The organic layer was then dried over anhydrous Na2SO4, filtered and concentrated to get desired product (0.12 g, 94%) that was carried forward as such without further purification. MS: 320.21 (M+H)+.

reactant | 2-(benzyloxy)-4-chlorobenzamide | 0.38 mmol, 0.103 g | C(C1=CC=CC=C1)OC1=C(C(=O)N)C=CC(=C1)Cl | C14H12ClNO2
reactant | chlorocarbonylsulfenyl chloride | 0.76 mmol, 63 μL | ClC(=O)SCl | CCl2OS
reactant | water | O | H2O
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
product | 5-(2-(Benzyloxy)-4-chlorophenyl)-1,3,4-oxathiazol-2-one | 0.12 g, 94% | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)Cl)C1=NSC(O1)=O | C15H10ClNO3S
